US07642264B2
4-(4-Chloro-phenyl)-2-(4-pyridin-4-yl-imidazol-1-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine (example A.1) (0.15 g, 0.5 mmol) and 4-(1H-imidazol-4-yl)-pyridine [CAS-No. 51746-87-3] (0.073 g, 0.5 mmol) according to the general procedure IVa. Obtained as a light red solid (0.15 g, 76%). MS (ISP) 402.3 [(M+H)+]; mp 269° C.

reactant | 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.15 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C11H5Cl2F3N2
reactant | 4-(1H-imidazol-4-yl)-pyridine | 0.5 mmol, 0.073 g | N1C=NC(=C1)C1=CC=NC=C1 | C8H7N3
product | 4-(4-Chloro-phenyl)-2-(4-pyridin-4-yl-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)C1=CC=NC=C1 | C19H11ClF3N5
